US07776897B2
Acetic anhydride (37 μl) was added to a pyridine solution (1 ml) of 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenol (60 mg), followed by stirring for 3 hours. After most of acetic anhydride and pyridine was removed by evaporation under reduced pressure, the residue was purified by thin layer chromatography (chloroform:methanol=9:1) to obtain 40 mg of 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenyl acetate (white crystals).

reactant | Acetic anhydride | 37 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenol | 60 mg | N(C1=CC=CC=C1)C(C)(C)C=1N(C(=NN1)C1=CC=C(C=C1)O)C | C18H20N4O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenyl acetate | 40 mg | C(C)(=O)OC1=CC=C(C=C1)C1=NN=C(N1C)C(C)(C)NC1=CC=CC=C1 | C20H22N4O2
